US04592866
2,3-Dihydro-4-methyl-2-[2-(1H-pyrazol-1-yl)ethyl]pyrido[3,2-f][1,4]oxazepine-5(4H)-thione
To a suspension of 2.16 g (0.054 mole) of sodium hydride in 20 ml of dimethylformamide was added dropwise a solution of 2.92 g (0.043 mole) of pyrazole in 10 ml of dimethylformamide. There was a slight exotherm at this point with some evolution of hydrogen gas. The resulting solution was then added dropwise to a solution of 10.0 g (0.039 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione in 30 ml of dimethylformamide. The reaction flask was sealed and stirred overnight at room temperature.

reactant | sodium hydride | 0.054 mole, 2.16 g | [H-].[Na+]
reactant | pyrazole | 0.043 mole, 2.92 g | N1N=CC=C1 | C3H4N2
reactant | hydrogen | [H][H] | H2
reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione | 0.039 mole, 10.0 g | ClCCC1OC2=C(C(N(C1)C)=S)C=CC=N2 | C11H13ClN2OS
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-4-methyl-2-[2-(1H-pyrazol-1-yl)ethyl]pyrido[3,2-f][1,4]oxazepine-5(4H)-thione | CN1CC(OC2=C(C1=S)C=CC=N2)CCN2N=CC=C2 | C14H16N4OS
